US05393866
To 360 g of THF (water content approximately 50 ppm) was added dropwise while cooling fuming sulfuric acid containing 25 wt % of free SO3 (25% oleum) in the amounts shown in Table 1, after which FSA was further added dropwise thereto. The temperature of the THF increased by the dropwise addition of the FSA. The polymerization was assumed to be initiated at the point when the systems reached the temperatures shown in Table 1, and the polymerization was continued at at these temperatures for the times shown in Table 1. After completion of the polymerization, the polymerization solution was mixed with 360 g of hot water at 60° C. to suspend the reaction, after which a hydrolysis reaction was conducted at 90° C. for 2 hours. Then, the unreacted THF was removed by distillation, after which calcium hydroxide was added thereto to neutralize the acids in the polymerization solution. A 100 g of toluene was added to the solution, and water contained therein was removed by azeotropic distillation. The toluene solution containing the dehydrated PTMG was filtered with a filter aid, after which the toluene was distilled off under reduced pressure to obtain about 200 g of PTMG.

reactant | THF | 360 g | C1CCOC1 | C4H8O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | oleum | OS(=O)(=O)O.O=S(=O)=O
solvent | water | 360 g | O | H2O
product | PTMG | about 200 g | CCCCO[C@@H](CC)CO | C8H18O2
